US08748446B2
0.6 g (1.1 mmol) of 4,5,6-triiodo-2,3,3-trimethyl-3H-indole and 0.78 g (5.5 mmol) of iodomethane were heated at 30-40° C. for 20 hours in a sealed tube. The formed precipitate was filtered, and washed with small amounts of benzene and acetone to yield 350 mg of 4,5,6-triiodo-1,2,3,3-tetramethyl-3H-indolium iodide. 1H-NMR (200 MHz, DMSO-d6), δ, ppm: 8.53 (1H, s, arom.), 3.93 (3H, s, NCH3), 2.77 (3H, s, CH3), 1.60 (6H, s, C(CH3)2).

reactant | 4,5,6-triiodo-2,3,3-trimethyl-3H-indole | 1.1 mmol, 0.6 g | IC1=C2C(C(=NC2=CC(=C1I)I)C)(C)C | C11H10I3N
reactant | iodomethane | 5.5 mmol, 0.78 g | IC | CH3I
product | 4,5,6-triiodo-1,2,3,3-tetramethyl-3H-indolium iodide | 350 mg | [I-].IC1=C2C(C(=[N+](C2=CC(=C1I)I)C)C)(C)C | InChI=1S/C12H13I3N.HI/c1-6-12(2,3)9-8(16(6)4)5-7(13)10(14)11(9)15;/h5H,1-4H3;1H/q+1;/p-1
